US07528134B2
N-(4-chloro-2,6-dimethylphenyl)-2-(3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-yl)acetamide
The title compound was prepared according to the method of Example 170 substituting 4-chloro-2,6-dimethylaniline hydrochloride in place of 2,6-diethylaniline; substituting 1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl hydrochloride (Saari, W. S.; et al. J. Med. Chem. 1984, 27, 1182) in place of the product from Example 36C; and, adding one additional equivalent each of pyridine and sodium carbonate. The purification also employed 0.1% aqueous trifluoroacetic acid in place of aqueous ammonium acetate (10 mM). (yield: 53 mg, 0.075 mmol, 29%). 1H NMR (300 MHz, DMSO-d6) δ 2.18 (s, 6H), 2.92 (m, 2H), 3.46 (m, 1H), 3.68 (m, 1H), 4.03 (m, 1H), 4.14 (m, 1H), 4.38 (s, 2H), 6.73 (br s, 1H), 7.23 (s, 2H), 7.34 (m, 1H), 7.66 (br d, J=8.4 Hz, 1H), 7.85 (ddd, J=2.1, 7.5, 7.5 Hz, 1H), 8.59 (m, 1H), 10.0 (s, 1H); MS (ESI) m/e 356 (M+H)+; Anal. calcd for C20H22ClN3O.3.1 C2HF3O2: C, 44.36; H, 3.57; N, 5.92. Found: C, 44.31; H, 3.60; N, 5.91.

reactant | 4-chloro-2,6-dimethylaniline hydrochloride | Cl.ClC1=CC(=C(N)C(=C1)C)C
reactant | 1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl hydrochloride | Cl.N1=C(C=CC=C1)C=1CCNCC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(4-chloro-2,6-dimethylphenyl)-2-(3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-yl)acetamide | ClC1=CC(=C(C(=C1)C)NC(CN1CCC(=CC1)C1=NC=CC=C1)=O)C | C20H22ClN3O
